US04590201
A stirred -55° C. solution of 3,5-dichlorobenzyl t-butyldimethylsilyl ether (1.46 g, 5.00 mmol) and tetramethylethylenediamine (0.755 mL, 0.581 g, 5.01 mmol) in tetrahydrofuran (5 mL) under nitrogen atmosphere was treated dropwise over 10 minutes with a 1.6 M solution of n-butyllithium in hexane (3.3 mL, 5.25 mmol). After 30 minutes at -55° C., a solution of p-chlorobenzoyl chloride (0.875 g, 5.00 mmol) in tetrahydrofuran (1.0 mL) was added over 15 minutes. The resulting mixture was stirred 2 hours at -55° to -30° C. and 1.5 hours at ambient temperature. The reaction was quenched by addition of saturated aqueous ammonium chloride (1.1 mL) and stirred 30 minutes. The mixture was treated with sodium sulfate (1.1 g), stirred 1 hour, and decanted. The residual solid was washed well with diethyl ether. The combined solution and washes were extracted twice with water, once with 10% aqueous citric acid, and once with brine, dried over anhydrous magnesium sulfate, and evaporated under vacuum to provide 1.93 g of crude brown oil. A total of 585 mg of oil was chromatographed on eight 1000μ 20 cm×20 cm silica gel preparative thick layer chromatography plates developed with 5:1 (v/v) hexane-ethyl acetate to provide 356 mg (60%) 4-(t-butyldimethylsilyloxymethyl)-2,4',6-trichlorobenzophenone; NMR (CDCl3): 0.14 s (6H), 0.95 s (9H), 4.72 s (2H), 7.27 s (2H), 7.35 d (J=9Hz, 2H), 7.70 d (J=9Hz, 2H).

reactant | 3,5-dichlorobenzyl t-butyldimethylsilyl ether | 5.00 mmol, 1.46 g | [Si](C)(C)(C(C)(C)C)OCC1=CC(=CC(=C1)Cl)Cl | C13H20Cl2OSi
reactant | tetramethylethylenediamine | 5.01 mmol, 0.755 mL, 0.581 g | CN(CCN(C)C)C | C6H16N2
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 5.25 mmol, 3.3 mL | CCCCCC | C6H14
reactant | p-chlorobenzoyl chloride | 5.00 mmol, 0.875 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
product | 4-(t-butyldimethylsilyloxymethyl)-2,4',6-trichlorobenzophenone | 356 mg, 60% | [Si](C)(C)(C(C)(C)C)OCC1=CC(=C(C(=O)C2=CC=C(C=C2)Cl)C(=C1)Cl)Cl | C20H23Cl3O2Si
